US05256806
trans-3,3-Diethoxy-1,2-cyclobutanedicarboxylic acid (racemic mixture)
A solution of trans-3,3-diethoxy-1,2-cyclobutanedicarboxylic acid, diethyl ester (100 g) in 1400 ml of tetrahydrofuran under argon was treated with 1400 ml of methanol and 1400 ml of 1N potassium hydroxide solution. The resulting mixture was allowed to stand for 3 days at room temperature and then was evaporated in vacuo to an aqueous solution. The pH was adjusted to 2.3 with 3N hydrochloric acid and the solution was saturated with sodium chloride. The resulting suspension was extracted with ethyl acetate (3×1000 ml). The combined extracts were washed with 250 ml of water and 250 ml of brine, dried over sodium sulfate, and evaporated to afford the product as solid, 78.8 g, m.p. 118°-120° C.

reactant | trans-3,3-diethoxy-1,2-cyclobutanedicarboxylic acid, diethyl ester | 100 g | C(C)OC1([C@H]([C@@H](C1)C(=O)OCC)C(=O)OCC)OCC | C14H24O6
reactant | methanol | 1400 ml | CO | CH4O
reactant | potassium hydroxide | 1N, 1400 ml | [OH-].[K+]
solvent | tetrahydrofuran | 1400 ml | O1CCCC1 | C4H8O
product | trans-3,3-Diethoxy-1,2-cyclobutanedicarboxylic acid | C(C)OC1([C@H]([C@@H](C1)C(=O)O)C(=O)O)OCC | C10H16O6
